US07906652B2
Step 5: Ethyl 3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoate
The mixture of 4.90 g (16.40 mmol) of ethyl 3-(1-azetidin-3-yl-2-fluoro-2-methylpropyl)-5-fluorobenzoate, 8.17 g of 3-[bromo(4-chlorophenyl)methyl]benzonitrile, 6 mL(34.36 mmol) of DIEA in 40 mL of acetonitrile was refluxed for 4 h, then concentrated in vacuo. The mixture was poured into 150 mL of CH2Cl2 and 30 mL of aq NaHCO3. The organic layer was dried over Na2SO4 and concentrated. Two pairs of racemic compounds were separated by silica gel chromatography. Single diastereomers were separated by a chiral AD column; Mass Spectrum: m/e=523 (M+1, 35Cl), 525 (M+1, 37Cl).

reactant | ethyl 3-(1-azetidin-3-yl-2-fluoro-2-methylpropyl)-5-fluorobenzoate | 16.40 mmol, 4.90 g | N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)OCC)C=C(C1)F | C16H21F2NO2
reactant | 3-[bromo(4-chlorophenyl)methyl]benzonitrile | 8.17 g | BrC(C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl | C14H9BrClN
reactant | DIEA | 34.36 mmol, 6 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | Ethyl 3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoate | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)OCC)C=C(C1)F)C1=CC(=CC=C1)C#N | C30H29ClF2N2O2
